US08071803B2
To a solution of dicyclohexylamine (14.24 g, 78.5 mmol) in THF (35 mL) 1.6 M n-BuLi in hexane (44.2 mL, 70.7 mmol) was added with stirring over 50 min at temperature between −20° C. and −15° C. The resulting orange suspension was stirred 10 min at −20° C. and then added via a teflon tube over 20 min to a stirred solution of cyclohexanecarboxylic acid isopropyl ester (10.0 g, 58.75 mmol) in THF (75 mL) at 0-2° C. To the resulting solution 1-bromo-2-ethylbutane (13.58 g, 82.25 mmol) in THF (37.5 mL) was added at 0° C. over 15 min. The solution was stirred overnight at 0° C. and for an other 3 h at room temperature. At 5° C. ice-water (25 mL) was added, followed by 2N HCl (60 mL). The white suspension was filtered and the filter cake was washed with water and ethyl acetate. The organic phase of the filtrate was washed with sat. aq. NaHCO3 and with aq. NaCl. The aqueous phases were extracted with ethyl acetate. The organic phases were combined, dried over sodium sulfate and concentrated. The crude product (15.5 g) was distilled at 60° C. (0.05 mbar) to give 12.7 g (85%) 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid isopropyl ester as colorless oil, purity 99.2% (GC area). 1H-NMR (CDCl3, 400 MHz): ppm 0.80 (t, 6H), 1.15-1.39 (m, 11H), 1.23 (d, 6H), 1.40 (d, 2H), 1.51-1.59 (m, 2H), 2.02-2.12 (m, 2H). 4.95-5.05 (m, 1H).

reactant | dicyclohexylamine | 78.5 mmol, 14.24 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | hexane | 70.7 mmol, 44.2 mL | CCCCCC | C6H14
reactant | cyclohexanecarboxylic acid isopropyl ester | 58.75 mmol, 10.0 g | C(C)(C)OC(=O)C1CCCCC1 | C10H18O2
reactant | 1-bromo-2-ethylbutane | 82.25 mmol, 13.58 g | BrCC(CC)CC | C6H13Br
reactant | HCl | 2N, 60 mL | Cl | ClH
solvent | THF | 1.6 M, 35 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 37.5 mL | C1CCOC1 | C4H8O
product | 1-(2-ethyl-butyl)-cyclohexanecarboxylic acid isopropyl ester | 12.7 g, 85% | C(C)(C)OC(=O)C1(CCCCC1)CC(CC)CC | C16H30O2
